US08895571B2
Step D: (2S)-2-amino-3-(2-methoxypyridin-4-yl)propan-1-ol
To a vial was added tert-butyl {(1S)-2-hydroxy-1-[(2-methoxypyridin-4-yl)methyl]ethyl}carbamate (0.50 g, 1.8 mmol) and methanol (2.0 mL) and 4.0 M hydrogen chloride in dioxane (5.0 mL, 20. mmol). The reaction was stirred at room temperature overnight. Direct evaporation under reduced pressure afforded the final compound. LC-MS found: 183.0 (M+H)+.

reactant | tert-butyl {(1S)-2-hydroxy-1-[(2-methoxypyridin-4-yl)methyl]ethyl}carbamate | 1.8 mmol, 0.50 g | OC[C@H](CC1=CC(=NC=C1)OC)NC(OC(C)(C)C)=O | C14H22N2O4
reactant | methanol | 2.0 mL | CO | CH4O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | (2S)-2-amino-3-(2-methoxypyridin-4-yl)propan-1-ol | N[C@H](CO)CC1=CC(=NC=C1)OC | C9H14N2O2
